US06476235B2
A nitrogen inerted reactor, equipped with a suitable reflux condenser and soxhlet extractor containing freshly activated 3A molecular sieves (4-8 mesh; 36 g), is charged with 3-amino-1-morpholin-4-yl-propan-1-one hydrochloride (170 mmol), phenylacetic acid sodium salt (170 mmol) and 2-[2-(4-fluorophenyl)-2-oxo-1-phenyl-ethyl]-4-methyl-3-oxo-pentanoic acid phenylamide (100 mmol). THF (150 mL) is added, and the resulting solution is stirred vigorously as the reaction is heated at reflux temperature for ca. 24 hours, during which time the product begins to precipitate. Aqueous NaHCO3 (100 mL) is added slowly, and the reaction mixture is cooled with continued stirring to ca. 0° C. MtBE (100 mL) is added, and the solids are collected via filtration. The yellow-colored solid is washed with distilled water (15 mL) and MtBE (2×15 mL), collected, and dried under vacuum at ≦50° C. to afford 5-(4-fluorophenyl)-2-isopropyl-1-(3-morpholin-4-yl-3-oxo-propyl)-4-phenyl-1H-pyrrole-3-carboxylic acid phenylamide as a white solid (42.1 g). This material is carried on to subsequent steps without further purification.

reactant | 3-amino-1-morpholin-4-yl-propan-1-one hydrochloride | 170 mmol | Cl.NCCC(=O)N1CCOCC1
reactant | phenylacetic acid sodium salt | 170 mmol | [Na+].C1(=CC=CC=C1)CC(=O)[O-]
reactant | 2-[2-(4-fluorophenyl)-2-oxo-1-phenyl-ethyl]-4-methyl-3-oxo-pentanoic acid phenylamide | 100 mmol | C1(=CC=CC=C1)NC(C(C(C(C)C)=O)C(C(=O)C1=CC=C(C=C1)F)C1=CC=CC=C1)=O | C26H24FNO3
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 5-(4-fluorophenyl)-2-isopropyl-1-(3-morpholin-4-yl-3-oxo-propyl)-4-phenyl-1H-pyrrole-3-carboxylic acid phenylamide | 42.1 g | C1(=CC=CC=C1)NC(=O)C1=C(N(C(=C1C1=CC=CC=C1)C1=CC=C(C=C1)F)CCC(=O)N1CCOCC1)C(C)C | C33H34FN3O3
